US04076838
A solution of 20 g of potassium hydroxide in 40 cc of water is added to a solution of 19.3 g of 5-(4-carbomethoxymethylphenyl)-3-methylvaleric acid methyl ester in 200 cc of methanol and the mixture is heated at reflux for 2 hours. The solution is subsequently concentrated, diluted with water, acidified with 2 N hydrochloric acid and extracted with ether. The crude 5-(4-carboxymethylphenyl)-3-methylvaleric acid obtained after concentrating the ether extract, is recrystallized from ether/hexane. M.P. 100°-102°.

reactant | potassium hydroxide | 20 g | [OH-].[K+]
reactant | 5-(4-carbomethoxymethylphenyl)-3-methylvaleric acid methyl ester | 19.3 g | COC(CC(CCC1=CC=C(C=C1)CC(=O)OC)C)=O | C16H22O4
solvent | water | 40 cc | O | H2O
solvent | methanol | 200 cc | CO | CH4O
product | 5-(4-carboxymethylphenyl)-3-methylvaleric acid | C(=O)(O)CC1=CC=C(C=C1)CCC(CC(=O)O)C | C14H18O4
